US05322847
1. 3-nitro-4-(p-hydroxyphenylamino)pyridine
To a stirred mixture of 50.2 g of p-hydroxyaniline and 38.7 g of sodium bicarbonate in 1.5 1 of ethanol was added dropwise 73 g of 3-nitro-4-chloropyridine in 2.0 l of ethanol. After stirring overnight at room temperature, the resulting solids were filtered, washed with water (2 l) and dried, 85.4 g.

reactant | p-hydroxyaniline | 50.2 g | OC1=CC=C(N)C=C1 | C6H7NO
reactant | sodium bicarbonate | 38.7 g | C([O-])(O)=O.[Na+]
reactant | 3-nitro-4-chloropyridine | 73 g | [N+](=O)([O-])C=1C=NC=CC1Cl | C5H3ClN2O2
solvent | ethanol | 2.0 l | C(C)O | C2H6O
product | 3-nitro-4-(p-hydroxyphenylamino)pyridine | [N+](=O)([O-])C=1C=NC=CC1NC1=CC=C(C=C1)O | C11H9N3O3
